US07705028B2
12a) 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxamide
6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid (97 mg, 0.180 mmol), di-tert-butyl dicarbonate (60 mg, 0.273 mmol), and pyridine (0.021 mL, 0.273 mmol) were combined into anhydrous acetonitrile (5 mL). The mixture was stirred at ambient temperature for half an hour. Ammonium hydrogen carbonate (25 mg, 0.273 mmol) was then added to the mixture and the reaction was stirred at ambient temperature for 48 hours. The solvent was then removed on a rotary evaporator and the crude residue was dissolved in ethyl acetate. The organic solution was then washed with water three times, followed by saturated sodium bicarbonate, and then brine. The crude organic extract was then dried over magnesium sulfate, filtered, and then evaporated to dryness. The residue was washed with hexanes several times to remove the residual di-tert-butyl dicarbonate, and the solids were removed via filtration to give the title compound as a white solid (94 mg, 98%) 1H NMR (CDCl3): δ 8.48 (d, J=9 Hz, 1H), 7.88-8.00 (m, 2H), 7.75 (d, J=9 Hz, 1H), 7.68 (d, J=9 Hz, 1H), 7.58 (d, J=9 Hz, 2H), 7.36-7.51 (m, 3H) 7.25 (d, J=9 Hz, 1 H), 6.88 (d, J=9 Hz, 2H), 6.42 (broad s, 1H), 6.13 (broad s, 1H), 4.81 (s, 2H), 3.26-3.44 (m, 1H), 1.37-1.47 (m, 6H). ESI-LCMS m/z 531 (M+H)+.

reactant | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid | 0.180 mmol, 97 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)O)C(C)C | C30H23Cl2NO4
reactant | di-tert-butyl dicarbonate | 0.273 mmol, 60 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 0.273 mmol, 0.021 mL | N1=CC=CC=C1 | C5H5N
reactant | Ammonium hydrogen carbonate | 0.273 mmol, 25 mg | C(O)([O-])=O.[NH4+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxamide | 94 mg, 98% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)N)C(C)C | C30H24Cl2N2O3
